US04001244
4.4 Parts of N-(2-diisopropylaminoethyl)-6,7-dimethoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide is dissolved in 110 parts of dimethylsulfoxide. Then 0.24 part of sodium hydride, as a 56% suspension in mineral oil, is added. The mixture is stirred for 30 minutes at room temperature. 1.42 Parts of methyl iodide is added portionwise at room temperature and the resultant mixture is stirred overnight in a nitrogen atmosphere. The mixture is then poured into water and extracted with methylene chloride. The methylene chloride extract is dried over anhydrous calcium sulfate and stripped under reduced pressure to give N-(2-diisopropylaminoethyl)-6,7-dimethoxy-N-methyl-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide.

reactant | N-(2-diisopropylaminoethyl)-6,7-dimethoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide | C(C)(C)N(CCNC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C1=CC=CC=C1)C(C)C | C26H37N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
reactant | water | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N-(2-diisopropylaminoethyl)-6,7-dimethoxy-N-methyl-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide | C(C)(C)N(CCN(C(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C1=CC=CC=C1)C)C(C)C | C27H39N3O3
